US09328110B2
The general method described in Step 3 of Example 15 was used to cyclize N4-(2,2-diethoxyethyl)quinoline-3,4-diamine (26.5 g, 96.2 mmol) by reaction with trimethyl orthobutyrate (15.9 g, 107 mmol) to provide 1-(2,2-diethoxyethyl)-2-propyl-1H-imidazo[4,5-c]quinoline (25.4 g) as a dark oil that was used directly in the next step without further purification.

reactant | N4-(2,2-diethoxyethyl)quinoline-3,4-diamine | 96.2 mmol, 26.5 g | C(C)OC(CNC1=C(C=NC2=CC=CC=C12)N)OCC | C15H21N3O2
reactant | trimethyl orthobutyrate | 107 mmol, 15.9 g | C(CCC)(OC)(OC)OC | C7H16O3
product | 1-(2,2-diethoxyethyl)-2-propyl-1H-imidazo[4,5-c]quinoline | 25.4 g | C(C)OC(CN1C(=NC=2C=NC=3C=CC=CC3C21)CCC)OCC | C19H25N3O2
